US04151280
15 ml of formic acid were added to a suspension of 15.3 g of 4-nitro-1,2-phenylenediamine in 150 ml of 10% hydrochloric acid and the mixture was stirred on a water bath at 80° C. for 3 hours and was cooled. The mixture was made alkaline with concentrated ammonium hydroxide solution and the mixture was filtered. The yellowish needles were washed with water and dried over P2O5 under reduced pressure to obtain 14.3 g (89% yield) of 5(6)-nitro-benzimidazole melting at 209°-211° C.

reactant | formic acid | 15 ml | C(=O)O | CH2O2
reactant | 4-nitro-1,2-phenylenediamine | 15.3 g | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hydrochloric acid | 150 ml | Cl | ClH
product | 5(6)-nitro-benzimidazole | 14.3 g, 89% yield | C1=CC2=C(C=C1[N+](=O)[O-])NC=N2 | C7H5N3O2
